US05780465
30. Preparation of 5-(6-Cyano-2,2-dimethylindan-1-yl)-4-methylthiopyrimidine (Cpd. 209)
To a mixture of 1.0 g (3.5 mmol) of 5-(6-amino-2,2-dimethylindan-1-yl)-4-methylthiopyrimidine in 25 mL of dry acetonitrile was added with stirring 1.0 g (7.0 mmol) of nitrosonium tetrafluoroborate. The brown solution was allowed to react for 10 min and was then poured, with stirring, into a solution of 2.5 g (28 mmol) of cuprous cyanide and 3.0 g (47 mmol) of potassium cyanide in 150 mL of dry dimethyl sulfoxide. The resulting mixture was heated to 40° C. to form a solution and this solution was poured into 750 mL of water. The mixture obtained was extracted with ether (2×300 mL) and the ethereal extract was washed with water, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography on silica gel to obtain 500 mg (48 percent of theory) of the title compound as a light yellow solid melting at 157°-158° C.

reactant | 5-(6-amino-2,2-dimethylindan-1-yl)-4-methylthiopyrimidine | 3.5 mmol, 1.0 g | NC1=CC=C2CC(C(C2=C1)C=1C(=NC=NC1)SC)(C)C | C16H19N3S
reactant | nitrosonium tetrafluoroborate | 7.0 mmol, 1.0 g | F[B-](F)(F)F.N#[O+]
reactant | potassium cyanide | 47 mmol, 3.0 g | [C-]#N.[K+]
reactant | water | 750 mL | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | dimethyl sulfoxide | 150 mL | CS(=O)C | C2H6OS
product | 5-(6-Cyano-2,2-dimethylindan-1-yl)-4-methylthiopyrimidine | C(#N)C1=CC=C2CC(C(C2=C1)C=1C(=NC=NC1)SC)(C)C | C17H17N3S
